US04473704
3a,4-Dihydro-6,8-dihydroxy-2H,3H-pyrrolo[1,2-a]quinoline-1,5-dione
By the procedures of Examples 2 and 3, diethyl 3-oxohexanedioate [Tetrahedron 23, p. 897 (1967)] and 3,5-dimethoxyaniline were converted to title product, recrystallized from ethyl acetate/cyclohexane, in 77% yield, m.p. 254°-256° C.; m/e 233 (m+); ir (KBr) 3448, 2857, 1680, 1639 cm-1.

reactant | diethyl 3-oxohexanedioate | O=C(CC(=O)OCC)CCC(=O)OCC | C10H16O5
reactant | 3,5-dimethoxyaniline | COC=1C=C(N)C=C(C1)OC | C8H11NO2
product | 3a,4-Dihydro-6,8-dihydroxy-2H,3H-pyrrolo[1,2-a]quinoline-1,5-dione | 77% yield | OC1=C2C(CC3N(C2=CC(=C1)O)C(CC3)=O)=O | C12H11NO4
